US09145407B2
6-Chloro-4-[2-methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine
5-[2-Methoxy-5-(trifluoromethyl)phenyl]-6-methylpyridazin-3(2H)-one (Preparation 41, 1.1 g, 39 mmol) and phosphorus oxychloride (20 mL) were heated to 100° C. for 3 hours. The reaction mixture was then cooled to 0° C. and poured onto ice before being neutralised with sodium bicarbonate. The mixture was extracted with dichloromethane (3×100 mL) and the combined organic layer washed with water (50 mL) then saturated aqueous sodium chloride solution (50 mL). The organics were dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by silica gel column chromatography (20% ethyl acetate in heptane elution) to afford the title compound as an off-white solid (900 mg).

reactant | 5-[2-Methoxy-5-(trifluoromethyl)phenyl]-6-methylpyridazin-3(2H)-one | 39 mmol, 1.1 g | COC1=C(C=C(C=C1)C(F)(F)F)C1=CC(NN=C1C)=O | C13H11F3N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-4-[2-methoxy-5-(trifluoromethyl)phenyl]-3-methylpyridazine | 900 mg | ClC1=CC(=C(N=N1)C)C1=C(C=CC(=C1)C(F)(F)F)OC | C13H10ClF3N2O
